US09326976B2
4-((S)-2-((S)-3-(3-Carboxyphenylsulfonyl)thiazolidine-2-carbonyloxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide (200 mg, 0.278 mmol), tert-butyl 2-aminoethylcarbamate (89 mg, 0.556 mmol), DMAP (40.7 mg, 0.334 mmol) and EDC (160 mg, 0.834 mmol) were dissolved in DMF. The reaction was stirred at room temperature overnight to achieve completion. The reaction mixture was diluted with water, and the precipitate was washed with water, dissolved in ethyl acetate and extracted with HCl 1N, NaHCO3 5% and brine. The organic phase was dried over Na2SO4 and concentrated under vacuum to give 4-((S)-2-((S)-3-(3-(2-(tert-butoxycarbonylamino)ethylcarbamoyl)phenylsulfonyl)thiazolidine-2-carbonyloxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide (211 mg, 0.245 mmol, 88% yield).

reactant | 4-((S)-2-((S)-3-(3-Carboxyphenylsulfonyl)thiazolidine-2-carbonyloxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide | 0.278 mmol, 200 mg | C(=O)(O)C=1C=C(C=CC1)S(=O)(=O)N1[C@@H](SCC1)C(=O)O[C@@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)C1=CC(=C(C=C1)OC(F)F)OCC1CC1 | C29H26Cl2F2N2O9S2
reactant | tert-butyl 2-aminoethylcarbamate | 0.556 mmol, 89 mg | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | EDC | 0.834 mmol, 160 mg
catalyst | DMAP | 0.334 mmol, 40.7 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-((S)-2-((S)-3-(3-(2-(tert-butoxycarbonylamino)ethylcarbamoyl)phenylsulfonyl)thiazolidine-2-carbonyloxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide | 0.245 mmol, 211 mg, 88% yield | C(C)(C)(C)OC(=O)NCCNC(=O)C=1C=C(C=CC1)S(=O)(=O)N1[C@@H](SCC1)C(=O)O[C@@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)C1=CC(=C(C=C1)OC(F)F)OCC1CC1 | C36H40Cl2F2N4O10S2
